US07977331B1
To a solution of 12-cyclohexyl-3-methoxy-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylic acid (2.40 g, 6.13 mmol) in N,N-dimethylformamide (20.0 mL) were successively added methyl 2-amino-2-methylpropionate hydrochloride (1.13 g, 7.36 mmol), 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide monohydrochloride (1.41 g, 7.36 mmol), 1-hydroxybenzotriazole (0.99 g, 7.36 mmol) and triethylamine (1.00 ml, 7.36 mmol) at room temperature, and the mixture was stirred overnight. To the reaction mixture were added saturated aqueous sodium hydrogen carbonate solution, methanol and water. The precipitate was collected by filtration, washed with water, and dried in vacuo to give methyl 2-[(12-cyclohexyl-3-methoxy-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carbonyl)amino]-2-methylpropionate (3.10 g). The obtained compound was used for Step 2 without purification.

reactant | 12-cyclohexyl-3-methoxy-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylic acid | 6.13 mmol, 2.40 g | C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC(=C4)OC)C=C(C=C2)C(=O)O | C24H25NO4
reactant | methyl 2-amino-2-methylpropionate hydrochloride | 7.36 mmol, 1.13 g | Cl.NC(C(=O)OC)(C)C
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide monohydrochloride | 7.36 mmol, 1.41 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 7.36 mmol, 0.99 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 7.36 mmol, 1.00 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 20.0 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | methyl 2-[(12-cyclohexyl-3-methoxy-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carbonyl)amino]-2-methylpropionate | 3.10 g | C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC(=C4)OC)C=C(C=C2)C(=O)NC(C(=O)OC)(C)C | C29H34N2O5
